V1 1 0 0
V2 6 0 3
R1 2 1 450
R2 4 3 640
R3 5 3 10e3
L1 3 6 1e-6
C1 4 0 2e-12
* o kostakhs einai theoylhs
  M1 5	 4 0 0 pmos L=1e-6 W=45e-6 
Q1 4 2 0 mod1 2.0   