*H katerina einai hlithia
V1 5 0 2
v2 		3 2 					0.2   
v3 7 6 2
i1 4        8 1e-3
I2 				0    	 6 		1e-3
			   R1 1 5 1.5
	  R2 1    2 1   
     		  *H katerina einai theoxontrh
 r3 5 2   50   
R4 5 6 0.1
R5 2 6 1.5
R6 3 4 0.1   
R7 8 0 1e3
R8 4 0 10 
*O kostas einai enas mikros theoulhs